US06162809
7. 4-[3-(4-Benzyl-1-piperazinyl)propylthio]-3-methyl-2-[(2-pyridinylthio)methyl]pyridine hydrochloride salt
4-(3-Chloropropylthio)-3-methyl-2-[(2-pyridinylthio)methyl]-pyridine dihydrochloride (0.59 g; 1.5 mmol) is stirred at 100° C. for 24 h in acetonitrile (10 ml) with benzylpiperazine (2.0 mmol) with addition of potassium carbonate (7.5 mmol) and catalytic amounts of sodium iodide. After addition of water, the mixture is extracted with dichloromethane (2×10 ml), the combined organic phases are washed with water, dried and concentrated, and the crude product (yellow oil) is chromatographed on silica gel. The pure product fractions are combined, concentrated, dissolved in ethanol and treated with 3.5 equivalents of conc. hydrochloric acid. The precipitated solid is filtered off, washed with diisopropyl ether and dried. The title compound is obtained as colorless crystals; m.p. 170-172° C.; yield 81% of theory.

reactant | 4-(3-Chloropropylthio)-3-methyl-2-[(2-pyridinylthio)methyl]-pyridine dihydrochloride | 1.5 mmol, 0.59 g | Cl.Cl.ClCCCSC1=C(C(=NC=C1)CSC1=NC=CC=C1)C
reactant | benzylpiperazine | 2.0 mmol | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | potassium carbonate | 7.5 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | [I-].[Na+]
reactant | hydrochloric acid | 3.5 equivalents | Cl | ClH
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 4-[3-(4-Benzyl-1-piperazinyl)propylthio]-3-methyl-2-[(2-pyridinylthio)methyl]pyridine hydrochloride salt | yield 81% | Cl.C(C1=CC=CC=C1)N1CCN(CC1)CCCSC1=C(C(=NC=C1)CSC1=NC=CC=C1)C | InChI=1S/C26H32N4S2.ClH/c1-22-24(21-32-26-10-5-6-12-28-26)27-13-11-25(22)31-19-7-14-29-15-17-30(18-16-29)20-23-8-3-2-4-9-23;/h2-6,8-13H,7,14-21H2,1H3;1H
